US07652057B2
A suspension of 5-methyl-1,2-dihydro-pyrazol-3-one (4.0 g) and adamantan-1-ol (5.6 g) in a round bottom flask was cooled to 0° C. with an ice/water bath. To the cooled suspension was added borontrifluoride ethyl etherate (9.2 mL) over 10 minutes. The reaction mixture was then allowed to warm up to ambient temperature and stirred for 24 hours. The suspension was then re-cooled to 0° C. and quenched with 50% KOH solution. The mixture was then acidified with 2 N aqueous HCl solution and diluted with EtOAc. The resultant white precipitate was then collected by filtration and the solid was washed with ether. The white solid was dried in a dessicator to give the desired 4-adamantan-1-yl-5-methyl-1,2-dihydro-pyrazol-3-one (9.2 g) as a white solid. MS (ESI+): 233.3 [M+H]+).

reactant | 5-methyl-1,2-dihydro-pyrazol-3-one | 4.0 g | CC1=CC(NN1)=O | C4H6N2O
reactant | adamantan-1-ol | 5.6 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
product | 4-adamantan-1-yl-5-methyl-1,2-dihydro-pyrazol-3-one | 9.2 g | C12(CC3CC(CC(C1)C3)C2)C=2C(NNC2C)=O | C14H20N2O
